US09102663B2
To 16.6 g of sodium hydride (purity: 60% or more), 600 mL of tetrahydrofuran was added and the resultant reaction mixture was cooled down to 0° C., followed by dropping 40.1 g of 3-hexen-1-ol into the reaction mixture at 4° C. or less to be added. After the completion of the dropping, the resultant reaction mixture was stirred at room temperature for 3 hours. Then, the reaction mixture was cooled down again to 0° C. and into the reaction mixture, 18.4 g of 2,4,6-trichloro-1,3,5-triazine dissolved in 120 mL of tetrahydrofuran was slowly dropped at 15° C. or less to be added. At room temperature, the reaction was effected over one night and to the reaction mixture, water was added, followed by extracting the resultant reaction mixture with ethyl acetate. The extract was washed with water and was dried over anhydrous sodium sulfate and from the extract, the solvent was distilled off to obtain 33.1 g of a crude product. The crude product was purified with a column (ethyl acetate:hexane=1:10) to obtain 23.22 g of 2,4,6-tri(3-hexene-1-oxy)-1,3,5-triazine which is the objective substance as a transparent oil. Yield: 61%, Purity: 98.6% (GC)

reactant | sodium hydride | 16.6 g | [H-].[Na+]
reactant | 3-hexen-1-ol | 40.1 g | C(CC=CCC)O | C6H12O
reactant | 2,4,6-trichloro-1,3,5-triazine | 18.4 g | ClC1=NC(=NC(=N1)Cl)Cl | C3Cl3N3
reactant | water | O | H2O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | 2,4,6-tri(3-hexene-1-oxy)-1,3,5-triazine | 23.22 g, Yield: 61% | C(CC=CCC)OC1=NC(=NC(=N1)OCCC=CCC)OCCC=CCC | C21H33N3O3
